US05304549
8.2 ml of a 1M solution of borane in tetrahydrofuran was added to a solution of 4.055 g of 1,2-dibenzyl 1-tert.butyl 1-(formylmethyl)-4-methyl-1,1,2(R)-pentanetricarboxylate in 40 ml of dry tetrahydrofuran. After stirring for 5 minutes, the mixture was acidified with 5% aqueous citric acid solution and was extracted twice with ethyl acetate. The combined extracts were washed with saturated sodium chloride solution, dried over anhydrous magnesium sulfate and evaporate. The residue was purified by flash chromatography on silica gel using hexane/ethyl acetate for the elution. There was obtained 2.518 g of 1,2-dibenzyl 1-tert.butyl 1-(hydroxymethyl)-4-methyl-1,1,2(R)-pentanetricarboxylate in the form of a colorless oil.

reactant | borane | B | BH3
reactant | 1,2-dibenzyl 1-tert.butyl 1-(formylmethyl)-4-methyl-1,1,2(R)-pentanetricarboxylate | 4.055 g | C(=O)CC([C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)(C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C29H36O7
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1,2-dibenzyl 1-tert.butyl 1-(hydroxymethyl)-4-methyl-1,1,2(R)-pentanetricarboxylate | 2.518 g | OCC([C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)(C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C28H36O7
